US06258813B1
A solution of 1.6 g of 1-pyrimidin-2-ylpiperazine in 200 ml of THF is treated with 2.75 g of 3-chloromethyl-4′-trifluoromethylbiphenyl (“H”) [obtainable, for example, by radical chlorination of 3-methyl-4′-trifluoromethylbiphenyl], dissolved in 30 ml of THF, and the mixture is stirred for 4 hours at room temperature. After customary work-up, 1-pyrimidin-2-yl-4-[(4′-trifluoromethyl-3-biphenylyl)methyl]piperazine is obtained.

reactant | 1-pyrimidin-2-ylpiperazine | 1.6 g | N1=C(N=CC=C1)N1CCNCC1 | C8H12N4
reactant | 3-chloromethyl-4′-trifluoromethylbiphenyl | 2.75 g | ClCC=1C=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F | C14H10ClF3
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 1-pyrimidin-2-yl-4-[(4′-trifluoromethyl-3-biphenylyl)methyl]piperazine | N1=C(N=CC=C1)N1CCN(CC1)CC=1C=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F | C22H21F3N4
